US09127003B2
(R)-(3-aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone (170 mg) was taken up in MeOH (5 mL) and treated with HCl (1M in ether) (165 μL) and blown down under nitrogen to give (R)-(3-aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride (187 mg, 0.43 mmol, 74.2% yield) as a cream solid.

reactant | (R)-(3-aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 170 mg | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC)C)C=C1 | C23H26N6O
reactant | HCl | 1M, 165 μL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (R)-(3-aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride | 0.43 mmol, 187 mg, 74.2% yield | Cl.N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC)C)C=C1 | InChI=1S/C23H26N6O.ClH/c1-3-29-20(13-15-6-4-10-25-21(15)29)22-26-18-12-16(8-9-19(18)27(22)2)23(30)28-11-5-7-17(24)14-28;/h4,6,8-10,12-13,17H,3,5,7,11,14,24H2,1-2H3;1H/t17-;/m1./s1
